US06831080B2
Step B: Preparation of (S)-{1-[3-(2-methyl-morpholin-4-yl)phenyl]-ethyl}carbamic acid tert-butyl ester
The solution of (S)-[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester (4.36 g, 14.5 mmol), 2-Methyl-morpholine hydrochloric acid salt (4 g. 2eq.), palladium acetate (20 mol %, 652 mg), 2-(di-t-butylphosphino) biphenyl (40 mol %, 1.73 g), triethylamine (4.45 ml, 2.2eq.), and sodium tert-butoxide (1.54 g, 1.1eq) in toluene (26 ml) was stirred at 80° C. for 2 days. The solution was filtered through Celite Pad and washed with ethyl acetate. The filtrate was washed with saturated sodium bicarbonate solution and the organic layer was separated. The aqueous layer was extracted with ethyl acetate three times. The combined organic layer was dried over magnesium sulfate and concentrated under vacuum. The crude product was purified by flash chromatography with 25% ethyl acetate/hexane. Yellow sticky oil was obtained as the product (2.7 g, 58% yield).

reactant | (S)-[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester | 14.5 mmol, 4.36 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)Br)=O | C13H18BrNO2
reactant | 2-Methyl-morpholine hydrochloric acid salt | 4 g, 2eq. | Cl.CC1CNCCO1
reactant | 2-(di-t-butylphosphino) biphenyl | 1.73 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | triethylamine | 4.45 ml, 2.2eq. | C(C)N(CC)CC | C6H15N
reactant | sodium tert-butoxide | 1.54 g, 1.1eq | CC(C)([O-])C.[Na+]
solvent | toluene | 26 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 652 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-{1-[3-(2-methyl-morpholin-4-yl)phenyl]-ethyl}carbamic acid tert-butyl ester | 2.7 g, 58% yield | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)N1CC(OCC1)C)=O | C18H28N2O3
